US08754229B2
To a 0° C. solution of methyl 4-[bis(tert-butoxycarbonyl)amino]-6-formyl-3-methoxypyridine-2-carboxylate (0.279 g, 0.680 mmol) in CH2Cl2 (2.72 ml) was added DEOXO-FLUOR® (0.251 ml, 1.360 mmol). The mixture was stirred at 0° C. for 1 h (reaction completed based on TLC and LC). TFA (1 mL) was then added and the reaction mixture was allowed to slowly warm to room temperature and was stirred overnight. The mixture was poured into saturated NaHCO3 and extracted with EtOAc (2×). The combined organic layers were dried over MgSO4, filtered and concentrated. The residue was purified by flash column chromatography (ISCO, SiO2 12 g, hexanes/EtOAc 100:0 to 0:100 gradient) to afford methyl 4-amino-6-(difluoromethyl)-3-methoxypicolinate (89 mg, 0.383 mmol, 56.4% yield) as a white solid. ESIMS m/z 233 ([M+H]+); 1H NMR (400 MHz, CDCl3) δ 7.06 (s, 1H), 6.54 (t, J=55.4 Hz, 1H), 4.69 (s, 2H), 3.98 (s, 3H), 3.90 (s, 3H); 19F NMR (376 MHz, CDCl3) δ −114.65.

reactant | methyl 4-[bis(tert-butoxycarbonyl)amino]-6-formyl-3-methoxypyridine-2-carboxylate | 0.680 mmol, 0.279 g | C(C)(C)(C)OC(=O)N(C1=C(C(=NC(=C1)C=O)C(=O)OC)OC)C(=O)OC(C)(C)C | C19H26N2O8
reactant | DEOXO-FLUOR | COCCN(CCOC)S(F)(F)F | C6H14F3NO2S
reactant | TFA | 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 2.72 ml | C(Cl)Cl | CH2Cl2
product | methyl 4-amino-6-(difluoromethyl)-3-methoxypicolinate | 0.383 mmol, 89 mg, 56.4% yield | NC1=C(C(=NC(=C1)C(F)F)C(=O)OC)OC | C9H10F2N2O3
